US07001917B2
Step 1. 2-[4-(4-Benzyl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 3-benzylpentane-2,4-dione and 2-(4-hydrazinophenyl)ethanol hydrochloride: 1H-NMR (CDCl3) δ 7.39-7.15 (9H, m), 3.89-3.85 (2H, t, J=6.4 Hz), 3.48 (2H, s), 2.91 (2H, t, J=6.6 Hz), 2.29 (3H, s), 2.21 (3H, s).

reactant | 3-benzylpentane-2,4-dione | C(C1=CC=CC=C1)C(C(C)=O)C(C)=O | C12H14O2
reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
product | 2-[4-(4-Benzyl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol | C(C1=CC=CC=C1)C=1C(=NN(C1C)C1=CC=C(C=C1)CCO)C | C20H22N2O
